US05707937
N-{4-Chloro-5-[2-chloro-2-(1-methoxycarbonyl-1-cyclopropylmethoxycarbonyl)ethen-1-yl]-2-fluorophenyl}-3,4,5,6-tetrahydrophthalimide (compound No. I.16)
7.9 mmol of triphenylphosphine were added to a solution of 7.2 mmol of N-{4-chloro-5-(2-hydroxycarbonyl-2-chloroethen-1-yl)-2-fluorophenyl}-3,4,5,6-tetrahydrophthalimide and 7.2 mmol of methyl 1-cyclopropyl-1-hydroxyacetate in 30 ml of absolute tetrahydrofuran. 7.9 mmol of diethyl azodicarboxylate in a mixture of 10 ml of tetrahydrofuran and 10 ml of toluene were then added dropwise. Stirring was carried out for 2 hours at about 20° C., after which a further 3.95 mmol of triphenylphosphine and 3.95 mmol of ethyl azodicarboxylate were added to the reaction mixture and stirring was then continued for 12 hours at about 20° C. Thereafter, 1 ml of water was added and, after stirring for a further 10 minutes, three pinches of sodium sulfate were introduced into the reaction mixture. Finally, the undissolved material was filtered off and the filtrate was evaporated down under reduced pressure from a water-jet pump. The crude product was purified by means of chromatography over silica gel (eluent: 2:1 petroleum ether/diethyl ether). Yield: 0.98 g (28%).

reactant | triphenylphosphine | 7.9 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-{4-chloro-5-(2-hydroxycarbonyl-2-chloroethen-1-yl)-2-fluorophenyl}-3,4,5,6-tetrahydrophthalimide | 7.2 mmol | ClC1=CC(=C(C=C1C=C(Cl)C(=O)O)N1C(C2=C(C1=O)CCCC2)=O)F | C17H12Cl2FNO4
reactant | diethyl azodicarboxylate | 7.9 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 3.95 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | 3.95 mmol | N(=NC(=O)[O-])C(=O)OCC
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 ml | O | H2O
product | N-{4-Chloro-5-[2-chloro-2-(1-methoxycarbonyl-1-cyclopropylmethoxycarbonyl)ethen-1-yl]-2-fluorophenyl}-3,4,5,6-tetrahydrophthalimide | ClC1=CC(=C(C=C1C=C(C(=O)OC(C1CC1)C(=O)OC)Cl)N1C(C2=C(C1=O)CCCC2)=O)F | C23H20Cl2FNO6
